US07754747B2
Step 6: ({6-[2-(2-Naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid.
A mixture of methyl ({6-[2-(2-naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate (184 mg, 0.433 mmol), prepared in the previous step, and 1N NaOH (650 μL, 0.65 mmol) in 10 mL of THF, 10 mL of methanol and 5 mL of H2O was refluxed for 2 h. The reaction was acidified by the addition of 700 μL of 1N HCl and then concentrated under reduced pressure to remove the THF and methanol. The white solid that formed was collected by filtration, rinsed with water and dried under reduced pressure to give the title compound (175 mg, 99%) as a white solid, mp 258-260° C. Elemental Analysis for C26H19NO4+0.20 H2O Calc'd: C, 75.61; H, 4.73; N, 3.39. Found: C, 75.41; H, 4.91; N, 3.22

reactant | methyl ({6-[2-(2-naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate | 0.433 mmol, 184 mg | C1=C(C=CC2=CC=CC=C12)CC=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C27H21NO4
reactant | NaOH | 0.65 mmol, 1N, 650 μL | [OH-].[Na+]
reactant | HCl | 1N, 700 μL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | ({6-[2-(2-Naphthylmethyl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetic acid | 175 mg, 99% | C1=C(C=CC2=CC=CC=C12)CC=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C26H19NO4
